US04057647
1 g. of 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid is dissolved in 10 ml. of THF and an ethereal solution of diazomethane is added dropwise, with stirring, until no further evolution of nitrogen is observed. After 20 minutes, the mixture is evaporated to give 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid methyl ester, m.p. 90°-92°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(=CC(=O)O)C | C16H12F2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid methyl ester | COC(C=C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C17H14F2O2
